US06984646B2
8-(4-Fluorobenzoyl)-3-methyl-2-phenylimidazo[1,2-a]pyridin-5(1H)-one
The compound is prepared as described in example 25 with 300 mg (0.91 mmol) of 1-(4-fluorophenyl)-2-(4-methyl-5-phenyl-1H-imidazol-2-yl)ethanone hydrochloride (example LI), 90 mg (1.80 mmol) of sodium methylate and 76 mg (0.91 mmol) methyl propiolate.

reactant | 1-(4-fluorophenyl)-2-(4-methyl-5-phenyl-1H-imidazol-2-yl)ethanone hydrochloride | 0.91 mmol, 300 mg | Cl.FC1=CC=C(C=C1)C(CC=1NC(=C(N1)C)C1=CC=CC=C1)=O
reactant | sodium methylate | 1.80 mmol, 90 mg | C[O-].[Na+]
reactant | methyl propiolate | 0.91 mmol, 76 mg | C(C#C)(=O)OC | C4H4O2
product | 8-(4-Fluorobenzoyl)-3-methyl-2-phenylimidazo[1,2-a]pyridin-5(1H)-one | FC1=CC=C(C(=O)C2=C3N(C(C=C2)=O)C(=C(N3)C3=CC=CC=C3)C)C=C1 | C21H15FN2O2
